US06452041B1
(R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-pentanoic Acid Cyclohexylamine Salt
A stirred solution of (E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-2-pentenoic acid cyclohexylamine salt (1.1 Kg, 2.3 mol) and [(S)-2,2′-bis(diphenylphosphino-1,1′-binaphthyl]chloro(p-cymene)ruthenium chloride (2.2 g, 2.4 mmol) in methanol (8.2 liters) and water (2.8 liters) was heated to 60° C., under hydrogen (60 p.s.i.), for 40 hours and then allowed to cool to 20-25° C. (enantiomeric excess=88%). The mixture was concentrated in vacuo to a volume of 3 liters and then ethyl acetate (5 liters) was added. The mixture was distilled at constant volume of ethyl acetate until water droplets appeared in the distillate. The mixture was then cooled to 20-25° C. and then demineralised water (2.9 liters) and citric acid (485 g, 2.5 mol) were added. The organic phase was separated and washed with demineralised water (1.1 liter) and then dried azeotropically by distillation at a constant volume of 8.25 liters. Methylethyl ketone (8.25 liters) was added and the mixture was warmed to 40° C. Cyclohexylamine (228 g, 2.28 mol) was added in one portion and the mixture was allowed to cool to 20-25° C., then was stirred for 16 hours. The mixture was filtered and the residue was washed with a mixture of ethyl acetate (55 ml) and methylethyl ketone (55 ml) and then dried in vacuo at 45° C. to leave the title compound as a colourless solid (0.71 Kg, 65% yield, enantiomeric excess=98.6%, 99% pure by HPLC).

reactant | (E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-2-pentenoic acid cyclohexylamine salt | 2.3 mol, 1.1 Kg | C1(CCCCC1)N.C(C)(C)(C)OC(C/C(/C(=O)O)=C\CCC1=CC(=C(C=C1)C1=CC=CC=C1)C)=O
reactant | citric acid | 2.5 mol, 485 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | Cyclohexylamine | 2.28 mol, 228 g | C1(CCCCC1)N | C6H13N
solvent | methanol | 8.2 liters | CO | CH4O
solvent | water | 2.8 liters | O | H2O
solvent | water | 2.9 liters | O | H2O
product | (R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-pentanoic Acid Cyclohexylamine Salt | 0.71 Kg, 65% yield | C1(CCCCC1)N.C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1=CC(=C(C=C1)C1=CC=CC=C1)C)=O | InChI=1S/C24H30O4.C6H13N/c1-17-15-18(13-14-21(17)19-10-6-5-7-11-19)9-8-12-20(23(26)27)16-22(25)28-24(2,3)4;7-6-4-2-1-3-5-6/h5-7,10-11,13-15,20H,8-9,12,16H2,1-4H3,(H,26,27);6H,1-5,7H2/t20-;/m1./s1
